US06544980B2
3.3 Synthesis of 2-(4-(2-mercapto-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid
Combine 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester (0.20 mmol), mercury (II) acetate (0.084 g, 0.26 mmol), and anisole (0.23 mL, 2.1 mmol) in dichloromethane (6.6 mL). Cool in an ice bath and degas by repeatedly cycles of vacuum and filling the vessel with nitrogen gas. Add trifluoroacetic acid (2.5 mL). After 1 hour, warm to ambient temperature. After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Repeatedly, combine the residue and carbon tetrachloride and evaporate in vacuo to give the title compound.

reactant | 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester | 0.20 mmol | C(C)(C)(C)OC(C(CC(C)C)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)SCC3=CC=C(C=C3)OC)=O)C=CC=C2)=O | C42H51N3O7S
reactant | anisole | 2.1 mmol, 0.23 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 6.6 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.26 mmol, 0.084 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | 2-(4-(2-mercapto-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid | SC(C(=O)NC1CC2=C(CN(C1=O)C(C(=O)O)CC(C)C)C=CC=C2)CCCCN2C(C=1C(C2=O)=CC=CC1)=O | C30H35N3O6S
